US07166599B2
b) 2-methylsulphonyl-4-methylamino-5-chloro-pyrimidine
Prepared from 2-methylsulphenyl-4-methylamino-5-chloro-pyrimidine by reacting with sodium periodate in glacial acetic acid/water, Rf value: 0.50 (silica gel; methylene chloride/methanol=9:1)

reactant | 2-methylsulphenyl-4-methylamino-5-chloro-pyrimidine | CSC1=NC=C(C(=N1)NC)Cl | C6H8ClN3S
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | methylene chloride methanol | C(Cl)Cl.CO
reactant | acetic acid water | C(C)(=O)O.O
product | 2-methylsulphonyl-4-methylamino-5-chloro-pyrimidine | CS(=O)(=O)C1=NC=C(C(=N1)NC)Cl | C6H8ClN3O2S
